US04954507
2-PHTALIMIDOMETHYL-1,4-DI-PHENYLMETHYL PIPERAZINE
A suspension of 15 g (47.6 mmol) of 2-chloromethyl-1,4-diphenylmethyl piperazine and 8.81 g (47.6 mmol) of potassium phtalimide in 7 ml anhydrous dimethyl formamide was stirred 2 hours at 110° C. After cooling the reaction mixture was taken up with 100 ml ethyl acetate. The mineral salts were filtered off. The solvent was removed, the residue was dissolved in 150 ml ethyl acetate, washed three times with water, dried over magnesium sulfate to give a srystalline product which was resrystallized in isopropyl ether to yield 6.67 g (33%) of title compound. M.P. 124° C.

reactant | 2-chloromethyl-1,4-diphenylmethyl piperazine | 47.6 mmol, 15 g | ClCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H23ClN2
reactant | potassium phtalimide | 47.6 mmol, 8.81 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl formamide | 7 ml | CN(C=O)C | C3H7NO
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 2-PHTALIMIDOMETHYL-1,4-DI-PHENYLMETHYL PIPERAZINE | 6.67 g, 33% | C1(C=2C(C(N1CC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1)=O)=CC=CC2)=O | C27H27N3O2
